US05958927
Step 1: 2-Bromo-6-methoxyindan-1-one
49.2 g (102 mmol) of tetra-n-butylammonium tribromide are added in fractions over the course of 15 minutes, at room temperature, to 16.2 g (100 mmol) of 6-methoxy-indan-1-one dissolved in 400 ml of methanol and 1 liter of dichloromethane, and the mixture is then stirred overnight at room temperature. After evaporation, the residue is taken up in 500 ml of dichloromethane and washed twice with 250 ml of N hydrochloric acid. Drying over magnesium sulphate and concentration, and then rapid filtration over 500 g of silica (eluant: dichloromethane) yield 23.4 g of the desired product.

reactant | tetra-n-butylammonium tribromide | 102 mmol, 49.2 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 6-methoxy-indan-1-one | 100 mmol, 16.2 g | COC1=CC=C2CCC(C2=C1)=O | C10H10O2
solvent | methanol | 400 ml | CO | CH4O
solvent | dichloromethane | 1 liter | ClCCl | CH2Cl2
product | 2-Bromo-6-methoxyindan-1-one | BrC1C(C2=CC(=CC=C2C1)OC)=O | C10H9BrO2
